US06693123B2
N-[4-(Pyrid-4-ylmethylamino)-2-naphth-1-ylbenzoyl]leucine Methyl Ester
This compound was synthesized via the reductive amination of N-[4-amino-2-naphth-1-ylbenzoyl]leucine methyl ester and pyridine-4-carboxaldehyde in methanol to afford, after purification, a white solid. 1H NMR (DMSO-d6) δ 0.71 (d, J=5.45 Hz, 3H), 0.82 (d, J=5.13 Hz, 3H), 1.20-1.27 (m, 2H), 1.29-1.32 (m, 1H), 3.72 (s, 2H), 3.79 (s, 1H), 4.15 (m, 1H), 4.41 (d, 2H, CH2), 5.52 (d, 1H, NH), 6.67-6.75 (dd, 1H), 6.89 (d, 1H), 7.23 (m, 2H), 7.25-7.35 (m, 8H), 8.55 (m, 2H).

reactant | N-[4-amino-2-naphth-1-ylbenzoyl]leucine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC2=CC=CC=C12)=O)CC(C)C)=O | C24H26N2O3
reactant | pyridine-4-carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
solvent | methanol | CO | CH4O
product | N-[4-(Pyrid-4-ylmethylamino)-2-naphth-1-ylbenzoyl]leucine Methyl Ester | COC([C@@H](NC(C1=C(C=C(C=C1)NCC1=CC=NC=C1)C1=CC=CC2=CC=CC=C12)=O)CC(C)C)=O | C30H31N3O3
